US08030337B2
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide Hydrochloride
To a solution of N-[2-(6-amino-7-methoxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide (2.56 g, 10.3 mmol) in dichloromethane (80 mL) was added a solution of boron tribromide in dichloromethane (1M, 22.7 mL, 22.7 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1.5 hr. To the reaction solution was added water, and the mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane (80 mL), a solution of boron tribromide in dichloromethane (1M, 22.7 mL, 22.7 mmol) was added under ice-cooling, and the mixture was stirred at room temperature for 1.5 hr. To the reaction solution was added water, and the mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and converted to hydrochloride with 4N hydrochloric acid/ethyl acetate solution. The solvent was evaporated under reduced pressure to give the title compound (2.51 g, yield 90%).

reactant | N-[2-(6-amino-7-methoxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide | 10.3 mmol, 2.56 g | NC1=CC=C2CCC(C2=C1OC)CCNC(C)=O | C14H20N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 22.7 mmol, 1M, 22.7 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 22.7 mmol, 1M, 22.7 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide Hydrochloride | 2.51 g, yield 90% | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O | InChI=1S/C13H18N2O2.ClH/c1-8(16)15-7-6-10-3-2-9-4-5-11(14)13(17)12(9)10;/h4-5,10,17H,2-3,6-7,14H2,1H3,(H,15,16);1H
